US07842696B2
K2CO3 (383 mg, 2.8 mmol) and CH3I (236 mg, 1.66 mmol) were added, with vigorous stirring, to a solution of 4-(2-carboxy-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester (371 mg, 1.1 mmol) in DMF (5 mL) and the resulting mixture was stirred at room temperature for 2 hours. The mixture was then diluted with cold water and the product extracted with ethyl acetate. The organic layer was washed with saturated brine solution, dried over sodium sulphate and concentrated under reduced pressure to afford 390 mg of 4-(2-methoxycarbonyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester as a yellow oil. LC-MS purity: 92.15%.

reactant | K2CO3 | 2.8 mmol, 383 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 1.66 mmol, 236 mg | CI | CH3I
reactant | 4-(2-carboxy-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 371 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(=O)O)=O | C17H22N2O5
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(2-methoxycarbonyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 390 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(=O)OC)=O | C18H24N2O5
